US08426447B2
A vial was charged with (S)-2′-amino-7-bromo-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-3-ol (750 mg, 2.154 mmol), DMF (8617 μL, 2.154 mmol) and cesium carbonate (2106 mg, 6.46 mmol). The mixture was cooled to 0° C. and 2-fluoro-2-methylpropyl trifluoromethanesulfonate (966 mg, 4.31 mmol) was added. The reaction was removed from the ice bath and stirred at RT for 45 minutes. The reaction was diluted with water (250 mL) and poured into a separatory funnel containing ethyl acetate (250 mL). The layers were separated and the aqueous layer was extracted with ethyl acetate (3×100 mL). The combined organic layers were washed with water and then brine, dried over sodium sulfate, filtered and concentrated in vacuo to provide a light yellow solid that was purified by silica gel chromatography (Redi-Sep pre-packed silica gel column (40 g), 0-10% methanol in methylenechloride with 0.1% ammonium hydroxide) to provide (S)-7-bromo-3-(2-fluoro-2-methylpropoxy)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine as a light yellow solid.

reactant | (S)-2′-amino-7-bromo-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-3-ol | 2.154 mmol, 750 mg | NC=1OC[C@]2(N1)C1=CC(=CC=C1OC1=NC=C(C=C12)O)Br | C14H10BrN3O3
reactant | DMF | 2.154 mmol, 8617 μL | CN(C)C=O | C3H7NO
reactant | cesium carbonate | 6.46 mmol, 2106 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-fluoro-2-methylpropyl trifluoromethanesulfonate | 4.31 mmol, 966 mg | FC(S(=O)(=O)OCC(C)(C)F)(F)F | C5H8F4O3S
product | (S)-7-bromo-3-(2-fluoro-2-methylpropoxy)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine | BrC=1C=C2C(=CC1)OC1=NC=C(C=C1[C@@]21N=C(OC1)N)OCC(C)(C)F | C18H17BrFN3O3
